US06727264B1
N-(3-{1-[3-METHOXY-3-(4-METHYLPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of 3-methoxy-3-(p-tolyl)-1-chloropropane (24.9 mg, 0.126 mmol), 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (28.3 mg, 0.126 mmol), diisopropylethylamine (0.50 mL) and catalytic amount of tetrabutylammonium iodide in dioxane (2.0 mL) was stirred at 90° C. for 72 hrs. Chromatography using silica preparative TLC plates [2.5% of NH3 (2.0 M in methanol) in CHCl3] gave the desired product (10.9 mg, 21.2% yield) as a thick oil: 1H NMR (400 MHz, CDCl3) δ 7.44 (s, 1H), 7.38 (m, 1H), 7.3-7.1 (m, 5H), 6.96 (d, 1H, J=7.4 Hz), 4.18 (apparent dd, 1H, J=5.6, 7.9 Hz), 3.24 (d, 1H, J=8.2 Hz), 3.2 (s, 3H), 3.11 (m, 2H, J=10.1 Hz), 2.49 (m, 4H), 2.35 (s, 3H), 2.3-2.1 (m, 3H), 1.92 (d, 4H), 1.25 (d, 6H, J=7.1 Hz); ESMS m/e: 409.4 (M+H)+.

reactant | 3-methoxy-3-(p-tolyl)-1-chloropropane | 0.126 mmol, 24.9 mg | COC(CCCl)C1=CC=C(C=C1)C | C11H15ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.126 mmol, 28.3 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | diisopropylethylamine | 0.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH3 | 2.0 M | N | H3N
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-(3-{1-[3-METHOXY-3-(4-METHYLPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 10.9 mg, 21.2% yield | COC(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)C | C26H36N2O2
